US06599866B2
A mixture of pentafluorobenzenesulfonyl chloride (25.0 g, 94 mmoles) and potassium hydroxide (86% purity, 12.3 g, 188 mmoles) was dissolved in 230 ml water and stirred at room temperature for 18 hours. The produced precipitate was filtered off and recrystallized from water (about 6 ml/g product). Colorless needles formed were filtered, washed with cool water and ethanol and dried in a vacuum oven for 24 hours to yield 22.1 g of potassium pentafluorobenzene sulfonate (82% yield).

reactant | pentafluorobenzenesulfonyl chloride | 94 mmoles, 25.0 g | FC1=C(C(=C(C(=C1S(=O)(=O)Cl)F)F)F)F | C6ClF5O2S
reactant | potassium hydroxide | 188 mmoles, 12.3 g | [OH-].[K+]
solvent | water | 230 ml | O | H2O
product | potassium pentafluorobenzene sulfonate | 22.1 g, 82% yield | FC1=C(C(=C(C(=C1S(=O)(=O)[O-])F)F)F)F.[K+] | InChI=1S/C6HF5O3S.K/c7-1-2(8)4(10)6(15(12,13)14)5(11)3(1)9;/h(H,12,13,14);/q;+1/p-1
